US07521457B2
a) 2,6-diaminobenzamide
5 g (25.373 mmol) 2,6-dinitro-benzonitrile is combined with 20 ml of an aqueous 80% sulphuric acid and stirred for 2 h at 80° C. The reaction mixture is combined with 100 ml of tetrahydrofuran and neutralised with 10% aqueous sodium hydroxide solution. The organic phase is separated off, combined with another 100 ml of tetrahydrofuran and 200 mg palladium on charcoal and stirred for 20 h at 8 bar H2 pressure and 25° C. The solids are filtered off. The filtrate is combined with 300 ml of ethyl acetate and extracted with saturated potassium hydrogen carbonate solution. The organic phase is separated off, dried and the solvent is eliminated in vacuo. The residue is purified by chromatography. The carrier used is silica gel and the eluant used is dichloromethane, to which 7% of a mixture of 90% methanol and 10% saturated aqueous ammonia solution are added.

reactant | 2,6-dinitro-benzonitrile | 25.373 mmol, 5 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,6-diaminobenzamide | NC1=C(C(=O)N)C(=CC=C1)N | C7H9N3O
